US07230020B2
Reaction of 2,5-dichlorobenzoic acid (300 mg, 1.50 mmol) in thionyl chloride (3.5 mL) then with 4-aminoacetophenone (85 mg, 0.63 mmol) in presence of triethylamine (90 μL, 0.65 mmol) in THF (6 mL) according to method B gave N-(4-Acetyl-phenyl)-2,5-dichloro-benzamide (150 mg, 0.48 mmol, 76% yield) as a orange powder after purification by crystallisation in DCM.

reactant | 2,5-dichlorobenzoic acid | 1.50 mmol, 300 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 4-aminoacetophenone | 0.63 mmol, 85 mg | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 3.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-Acetyl-phenyl)-2,5-dichloro-benzamide | 0.48 mmol, 150 mg, 76% yield | C(C)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)Cl)=O | C15H11Cl2NO2
